### PR TITLE
[Merged by Bors] - feat: criterion for cofinite filter tends to cofinite.

### PR DESCRIPTION
**Pull request by kbuzzard**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Cofinite.lean [hunk 1]
```diff
@@ -243,6 +243,13 @@ theorem Function.Surjective.le_map_cofinite {f : α → β} (hf : Surjective f)
 theorem Function.Injective.tendsto_cofinite {f : α → β} (hf : Injective f) :
     Tendsto f cofinite cofinite := fun _ h => h.preimage hf.injOn
 
+/-- For a function with finite fibres, inverse images of finite sets are finite. -/
+theorem Filter.Tendsto.cofinite_of_finite_preimage_singleton {f : α → β}
+    (hf : ∀ b, Finite (f ⁻¹' {b})) : Filter.Tendsto f Filter.cofinite Filter.cofinite := by
```
Comment (b-mehta) [inline Mathlib/Order/Filter/Cofinite.lean:248]:
```suggestion
    (hf : ∀ b, Finite (f ⁻¹' {b})) : Tendsto f cofinite cofinite := by
```
and similarly below, the `Filter.` prefixes shouldn't be needed

File: Mathlib/Order/Filter/Cofinite.lean [hunk 2]
```diff
@@ -243,6 +243,13 @@ theorem Function.Surjective.le_map_cofinite {f : α → β} (hf : Surjective f)
 theorem Function.Injective.tendsto_cofinite {f : α → β} (hf : Injective f) :
     Tendsto f cofinite cofinite := fun _ h => h.preimage hf.injOn
 
+/-- For a function with finite fibres, inverse images of finite sets are finite. -/
+theorem Filter.Tendsto.cofinite_of_finite_preimage_singleton {f : α → β}
+    (hf : ∀ b, Finite (f ⁻¹' {b})) : Tendsto f cofinite cofinite := by
+  intro t ht
+  rw [mem_map, mem_cofinite, ← Set.preimage_compl]
+  exact ht.preimage' fun b _ ↦ hf b
```
Comment (b-mehta) [inline Mathlib/Order/Filter/Cofinite.lean:251]:
```suggestion
    (hf : ∀ b, Finite (f ⁻¹' {b})) : Tendsto f cofinite cofinite := 
  fun _ h => h.preimage' fun b _ ↦ hf b
```
optional, but consistent with the previous

**Review by b-mehta — APPROVED** [review]
bors d+

File: Mathlib/Order/Filter/Cofinite.lean [hunk 3]
```diff
@@ -243,6 +243,11 @@ theorem Function.Surjective.le_map_cofinite {f : α → β} (hf : Surjective f)
 theorem Function.Injective.tendsto_cofinite {f : α → β} (hf : Injective f) :
     Tendsto f cofinite cofinite := fun _ h => h.preimage hf.injOn
 
+/-- For a function with finite fibres, inverse images of finite sets are finite. -/
+theorem Filter.Tendsto.cofinite_of_finite_preimage_singleton {f : α → β}
+    (hf : ∀ b, Finite (f ⁻¹' {b})) : Tendsto f cofinite cofinite :=
```
Comment (kbuzzard) [inline Mathlib/Order/Filter/Cofinite.lean:248]:
```suggestion
    (hf : ∀ b, Finite (f ⁻¹' {b})) : Tendsto f cofinite cofinite :=
```

Comment (b-mehta) [reply Mathlib/Order/Filter/Cofinite.lean]: oops, sorry!

**Comment by kbuzzard** [comment]
bors merge
